US04144341
1,3-Dihydro-1-hydroxymethyl-3-(3,4-methylenedioxyphenyl)imidazo[4,5-b]pyridin-2-one
A mixture of 500 mg. of 1,3-dihydro-3-(3,4-methylenedioxyphenyl)imidazo[4,5-b]pyridin-2-one and 30 ml. of 37% formaldehyde was heated on the steam bath for 1.5 hours. The hot solution was treated with decolorizing carbon, filtered, and the filtrate was treated with 2 ml. of 2.5 N sodium hydroxide and 30 ml. of water. The precipitate was collected: 400 mg. of 1,3-dihydro-1-hydroxymethyl-3-(3,4-methylenedioxyphenyl)imidazo[4,5-b]pyridin-2-one, m.p. 268° C.

reactant | 1,3-dihydro-3-(3,4-methylenedioxyphenyl)imidazo[4,5-b]pyridin-2-one | C1OC=2C=C(C=CC2O1)N1C(NC=2C1=NC=CC2)=O | C13H9N3O3
reactant | formaldehyde | C=O | CH2O
product | 1,3-Dihydro-1-hydroxymethyl-3-(3,4-methylenedioxyphenyl)imidazo[4,5-b]pyridin-2-one | OCN1C(N(C2=NC=CC=C21)C2=CC1=C(C=C2)OCO1)=O | C14H11N3O4
